US08563717B2
Intermediate 19: 2-(Butyloxy)-9-[(1-ethyl-4-piperidinyl)methyl]-8-(methyloxy)-9H-purin-6-amine
2-(Butyloxy)-8-(methyloxy)-1H-purin-6-amine (300 mg, 1.264 mmol), (1-ethyl-4-piperidinyl)methanol (362 mg, 2.53 mmol) and tributylphosphine (0.624 ml, 2.53 mmol) were dissolved in THF (12 ml). 1,1′-(Azodicarbonyl)dipiperidine (638 mg, 2.53 mmol) was added and the reaction mixture stirred at rt overnight. The solvent was removed in vacuo and the residue purified by column chromatography, loading in dichloromethane and purified on Flashmaster II silica (Si) 20 g using a 0-100% ethyl acetate in cyclohexane+0-20% methanol (+1% Et3N) gradient over 30 mins. The appropriate fractions were combined and evaporated in vacuo. The material (300 mg) was dissolved in 1:1 MeOH:DMSO 3 ml and re-purified by Mass Directed AutoPrep (Method A). The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound as a clear gum (60 mg). LCMS (System A): tRET=0.57 min; MH+ 363

reactant | 2-(Butyloxy)-8-(methyloxy)-1H-purin-6-amine | 1.264 mmol, 300 mg | C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N | C10H15N5O2
reactant | (1-ethyl-4-piperidinyl)methanol | 2.53 mmol, 362 mg | C(C)N1CCC(CC1)CO | C8H17NO
reactant | tributylphosphine | 2.53 mmol, 0.624 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 2.53 mmol, 638 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 2-(Butyloxy)-9-[(1-ethyl-4-piperidinyl)methyl]-8-(methyloxy)-9H-purin-6-amine | 60 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CCN(CC1)CC)OC)N | C18H30N6O2
